US08202858B2
(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-(4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-propoxy}-3-fluoro-phenyl)-methanone
(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-[3-fluoro-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone dihydrochloride from Example E69.2 (105 mg, 0.17 mmol) was dissolved in methanol (2.45 ml) and triethylamine (0.07 ml, 0.50 mmol). Acetic acid (0.05 ml) then 3,3-dimethylbutyraldehyde (0.032 ml, 0.25 mmol) were added and the mixture was stirred for 1 h at room temperature. Sodium cyanoborohydride (16 mg, 0.25 mmol) was added and the mixture was stirred for 3 h at room temperature then concentrated in vacuo. The residue was dissolved in dichloromethane, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 5% methanol:95% dichloromethane) to yield the title compound (102 mg, 95%).

reactant | (1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-[3-fluoro-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1C(=NC=2CCN(C3=C(C12)C=CC=C3)C(=O)C3=CC(=C(C=C3)OCCCN3CCNCC3)F)C
reactant | triethylamine | 0.50 mmol, 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethylbutyraldehyde | 0.25 mmol, 0.032 ml | CC(CC=O)(C)C | C6H12O
reactant | Sodium cyanoborohydride | 0.25 mmol, 16 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 2.45 ml | CO | CH4O
solvent | Acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
product | (1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-(4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-propoxy}-3-fluoro-phenyl)-methanone | 102 mg, 95% | C(C1=CC=CC=C1)N1C(=NC=2CCN(C3=C(C12)C=CC=C3)C(=O)C3=CC(=C(C=C3)OCCCN3CCN(CC3)CCC(C)(C)C)F)C | C39H48FN5O2
